US07612075B2
B. 3-Bromomethyl-5-iodo-2-methoxy-pyridine.
A solution containing 5-iodo-3-methyl-2-methoxy-pyridine (1.00 g, 4.00 mmol) and NBS (0.78 g, 4.40 mmol) in CCl4 (20 mL) is warmed to reflux. AIBN is added in 5 mg portions (0.03 mmol) every hour. After 3 h, the reaction mixture is cooled and then concentrated in vacuo. The residue is dissolved in EtOAc (150 mL) and washed successively with aqueous Na2S2O3 (100 mL), water (100 mL), brine then dried over anhydrous Na2SO4, filtered and concentrated. The crude product ispurified by silica gel flash column chromatography (hexane/diethyl ether, 19:1) to provide 0.72 g (55%) of the title compound as a white solid. 1H NMR (300 MHz, CDCl3) δ3.97 (s, 3H), 4.38 (s, 2H), 7.83 (d, J=2.2 Hz, 1H), 8.27 (d, J=2.2 Hz, 1H) ppm; MS (EI): m/z 327 (M+).

reactant | 5-iodo-3-methyl-2-methoxy-pyridine | 4.00 mmol, 1.00 g | IC=1C=C(C(=NC1)OC)C | C7H8INO
reactant | NBS | 4.40 mmol, 0.78 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromomethyl-5-iodo-2-methoxy-pyridine | 0.72 g, 55% | BrCC=1C(=NC=C(C1)I)OC | C7H7BrINO
